US06159902
Hydrogen bromide solution in acetic acid (50 g of 30% w/w) was added to 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-hept-6-en-3-one (4.14 g) and stirred for 5 hours. Evaporation and dry column chromatography on silica gel eluting with hexane/ethyl acetate (4:1) gave 6-bromo-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-heptan-3-one (1.04 g) as a brown gum, NMR 1.4(s,6H), 1.7(d,3H), l.9(m,1H), 1.9(s,3H), 2.2(m,1H), 2.7(m,2H), 4.1(m,1H), 5.3(s,2H), 7.3(m,5H).

reactant | Hydrogen bromide | Br | BrH
reactant | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-hept-6-en-3-one | 4.14 g | CC1=C(C(N(CO1)C(C)(C(CCC=C)=O)C)=O)C1=CC=CC=C1 | C19H23NO3
solvent | acetic acid | 50 g | C(C)(=O)O | C2H4O2
product | 6-bromo-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methyl-heptan-3-one | 1.04 g | BrC(CCC(C(C)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C)=O)C | C19H24BrNO3
